Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Oxycodone / Ragweed
 
Attending: ___.
 
Chief Complaint:
Ileocecal mass
 
Major Surgical or Invasive Procedure:
Exploratory laparoscopy, lysis of adhesions, laparoscopic right 
colectomy, ileocolostomy.

 
History of Present Illness:
___ y/o male with abnormal thickening of his terminal ileum as 
seen on imaging.  He had endoscopy which did not demonstrate a 
mucosal lesion.  General surgery consult was obtained for 
surgical biopsy and resection of that abnormal area.  He 
presents at this time to have this procedure done.
 
Past Medical History:
Past Medical History:  BPH, bladder spasms, colitis, depression,
diplopia, reflux, hyperlipidemia, osteoarthritis, sarcoidosis.

Past Surgical History:  Right inguinal hernia and splenectomy.

 
Social History:
___
Family History:
Family history is significant for hernias.
 
Physical Exam:
VS: 98.4, 87, 118-141/66-78, 18, 98-99%RA
GEN: NAD
Cards: RRR, no RMG
Pulm: CTAB
Abd: soft, nt, nd, no rebound, no guarding
Extrem: WWP, no CCE
Wound: no erythema, drainage or induration, mild bruising
 
Pertinent Results:
CBC:
___ 12:50PM BLOOD WBC-11.2* RBC-3.97* Hgb-10.2* Hct-33.3* 
MCV-84 MCH-25.7* MCHC-30.7* RDW-16.5* Plt ___
___ 06:40AM BLOOD WBC-12.2* RBC-3.79* Hgb-10.0* Hct-32.5* 
MCV-86 MCH-26.5* MCHC-30.8* RDW-16.8* Plt ___
  
Lytes:
___ 12:50PM BLOOD Glucose-122* UreaN-31* Creat-1.1 Na-138 
K-4.9 Cl-105 HCO3-26 AnGap-12
___ 06:40AM BLOOD Glucose-92 UreaN-27* Creat-0.9 Na-135 
K-4.7 Cl-103 HCO3-26 AnGap-11
___ 12:50PM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9
___ 06:40AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.4
  
Pathology pending at time of d/c.
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
The patient was admitted to the ___ surgery service on ___ 
and had a lap assisted right colectomy.  The patient tolerated 
the procedure very well.
  
Neuro: Post-operatively, the patient received Morphine IV and 
Toradol IV with
good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications.  
He was sent with an Rx for oral pain meds.
   
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
   
Pulmonary: Pulmonary toilet including incentive spirometry and 
early ambulation were encouraged.  The patient was stable from a 
pulmonary standpoint; vital signs were routinely monitored.
   
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. His diet was advanced when appropriate, 
which was tolerated remarkably well. Patient passed flatus on 
POD2 and had a BM on POD3 following a Dulcolax PR.  He was also 
started on a bowel regimen to encourage bowel movement. Intake 
and output were closely monitored.
   
ID: The patient's temperature was closely watched for signs of 
infection.
  
Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible.
   
At the time of discharge on POD#3, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, having BM's, voiding without assistance, and pain 
was well controlled.

 
Medications on Admission:
fluoxetine 20', simvastatin 40', sildenafil ___, 
prednisone 10', meloxicam 15', triamcinolone 1%, calcium, 
tylenol prn

 
Discharge Medications:
1. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. sildenafil 25 mg Tablet Sig: ___ Tablets PO once a day as 
needed.  
4. prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. meloxicam 15 mg Tablet Sig: One (1) Tablet PO once a day: As 
you were taking prior to admission to the hospital.  
6. calcium 500 mg Tablet Oral
7. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every six 
(6) hours.  
8. morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
9. docusate sodium 100 mg Tablet Sig: One (1) Tablet PO twice a 
day: Please take this medication if taking narcotic pain 
medication.
Disp:*60 Tablet(s)* Refills:*0*
10. triamcinolone acetonide  Topical

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bowel mass (pathology pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were admitted to the ___ surgery service for a right 
colectomy.  You have improved very nicely and at this time we 
are comfortable with you going home to continue your recovery.
  
You may work in your garden so long as you are not doing any 
heavy lifting.  You may also feel free to pick up your 
granddaughter.
  
General Discharge Instructions:
Please resume all regular home medications, unless specifically
advised not to take a particular medication.  Please take any 
new
medications as prescribed.
  
Please take the prescribed analgesic medications as needed.  You 
may
not drive or operate heavy machinery while taking narcotic 
analgesic
medications.  Do not drink alcohol while taking this mediction 
as well.  You may also take acetaminophen (Tylenol) as directed, 
but do not exceed 4000 mg in one day.
  
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity until you follow-up with your surgeon, who 
will instruct you further regarding activity restrictions.  
Please also follow-up with your primary care physician in the 
next few weeks.
   
Incision Care:
*Please call your surgeon or go to the emergency department if 
you
have increased pain, swelling, redness, or drainage from the 
incision
site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water.
Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please
remove any remaining strips ___ days after surgery.

Thank you for letting us participate in your care.  We wish you 
a speedy recovery.
 
Followup Instructions:
___